US06403584B1
A mixture of 5.0 g (26.7 mmol) of 2-nitro-4-chlorobenzyl alcohol, 6.33 g (34.8 mmol) of 2,6-dimethoxybenzene boronic acid, 0.73 g (0.80 mmol) of Pd2dba3, 11.3 g (34.8 mmol) of Cs2CO3, and 0.45 g (1.60 mmol) of Cy3P was dissolved in 100 mL of dioxane and warmed to reflux for 18 h. The reaction mixture was cooled, filtered through a pad of silica gel which was washed with Et2O and concentrated. The residue was purified by flash column chromatography on silica gel eluted with a gradient of 25-50% Et2O in hexanes and gave 4-(2′,6′-dimethoxyphenyl)-2-nitrobenzyl alcohol as a pale yellow solid.

reactant | 2-nitro-4-chlorobenzyl alcohol | 26.7 mmol, 5.0 g | [N+](=O)([O-])C1=C(CO)C=CC(=C1)Cl | C7H6ClNO3
reactant | 2,6-dimethoxybenzene boronic acid | 34.8 mmol, 6.33 g | COC1=C(C(=CC=C1)OC)B(O)O | C8H11BO4
reactant | Cs2CO3 | 34.8 mmol, 11.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Cy3P | 1.60 mmol, 0.45 g | P(C1CCCCC1)(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.80 mmol, 0.73 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(2′,6′-dimethoxyphenyl)-2-nitrobenzyl alcohol | COC1=C(C(=CC=C1)OC)C1=CC(=C(CO)C=C1)[N+](=O)[O-] | C15H15NO5
